US08957070B2
N-[2-(Hydrazinocarbonyl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
To a mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (1.00 g), 1H-1,2,3-benzotriazol-1-ol (0.48 g) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.68 g) at room temperature. The mixture was stirred at 50° C. for 30 min, and hydrazine monohydrate (0.74 g) was added. The reaction mixture was stirred at room temperature for 1 hr, and water was added. The resulting crystals were filtrated, washed with water, and dried to give the title compound (0.88 g, yield 84%) as colorless crystals. melting point 273-274° C. (decomposition).

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 1.00 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.48 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.68 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrazine monohydrate | 0.74 g | O.NN
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[2-(Hydrazinocarbonyl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 0.88 g, yield 84% | N(N)C(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C14H14N4O3S2
